US07557213B2
Preparation of 1-(6-Bromo-pyridin-2-ylmethyl)-3-[4-(2-methoxy-ethoxy)-3-methyl-benzoyl]-1H-quinolin-4-one
Experimental conditions analogous to those described for Step 6 of Example 60 from 120 mg (0.30 mmol) of 1-(6-bromo-pyridin-2-ylmethyl)-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid methoxy-methyl-amide in 2 mL THF and 192 mg (0.66 mmol) of 4-iodo-1-(2-methoxy-ethoxy)-2-methyl-benzene in 2 mL THF with 0.34 mL 2M isopropylmagnesium chloride. Yield: 39 mg of a white powder. LC-MSD, m/z for C26H23BrN2O4 [M+H]+=507.0, 509.0; HPLC retention time: 2.5 min.

reactant | 1-(6-bromo-pyridin-2-ylmethyl)-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid methoxy-methyl-amide | 0.30 mmol, 120 mg | CON(C(=O)C1=CN(C2=CC=CC=C2C1=O)CC1=NC(=CC=C1)Br)C | C18H16BrN3O3
reactant | 4-iodo-1-(2-methoxy-ethoxy)-2-methyl-benzene | 0.66 mmol, 192 mg | IC1=CC(=C(C=C1)OCCOC)C | C10H13IO2
reactant | isopropylmagnesium chloride | 2M, 0.34 mL | C(C)(C)[Mg]Cl
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 1-(6-Bromo-pyridin-2-ylmethyl)-3-[4-(2-methoxy-ethoxy)-3-methyl-benzoyl]-1H-quinolin-4-one | BrC1=CC=CC(=N1)CN1C=C(C(C2=CC=CC=C12)=O)C(C1=CC(=C(C=C1)OCCOC)C)=O | C26H23BrN2O4
